US07763639B2
4-[2-METHYL-3-(METHYLSULFONYL)PHENYL]-PIPERIDINE
Preparation according to preparation 9: 4-[2-methyl-3-(methylsulfonyl)phenyl]pyridine (0.4 g, 1.6 mmol), methanol (10 ml), platinum oxide (0.10 g), hydrochloric acid (0.1 ml, conc). Yield: 0.41 g. MS m/z (rel. intensity, 70 eV) 247 (M+, 96), 246 (51), 168 (53), 167 (bp), 139 (51).

reactant | 4-[2-methyl-3-(methylsulfonyl)phenyl]pyridine | 1.6 mmol, 0.4 g | CC1=C(C=CC=C1S(=O)(=O)C)C1=CC=NC=C1 | C13H13NO2S
reactant | hydrochloric acid | 0.1 ml | Cl | ClH
catalyst | platinum oxide | 0.10 g | [Pt]=O
solvent | methanol | 10 ml | CO | CH4O
product | 4-[2-METHYL-3-(METHYLSULFONYL)PHENYL]-PIPERIDINE | CC1=C(C=CC=C1S(=O)(=O)C)C1CCNCC1 | C13H19NO2S
